US08076334B2
A solution of pyridin-3-yl-acetic acid hydrochloride salt (57.3 mg, 0.33 mmol) in methylene chloride (1.84 mL) was treated with N,N,N′,N′-tetramethyl-O—(N-succinimidyl)uronium tetrafluoroborate (119 mg, 0.39 mmol) and N,N-diisopropylethylamine (0.17 mL, 0.99 mmol). The resulting solution was stirred at 25° C. for 2.5 h. At this time, 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (200 mg, 0.42 mmol) was added to the reaction. The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction mixture was diluted with methylene chloride (50 mL) and washed with water (3×150 mL). The organics were dried over sodium sulfate, filtered, rinsing with methylene chloride and concentrated in vacuo. Biotage flash chromatography (40S, 1-4% methanol/methylene chloride) followed by supercritical fluid chromatography (Daicel OD column, 60% methanol) afforded pyridin-3-yl-acetic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester (43.2 mg, 22%) as a yellow solid. ES+-HRMS m/e calcd for C25H19N7O6Cl2 (M+H+) 584.0847, found 584.0848.

reactant | pyridin-3-yl-acetic acid hydrochloride salt | 0.33 mmol, 57.3 mg | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | N,N,N′,N′-tetramethyl-O—(N-succinimidyl)uronium tetrafluoroborate | 0.39 mmol, 119 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | N,N-diisopropylethylamine | 0.99 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 0.42 mmol, 200 mg | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
solvent | methylene chloride | 1.84 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-yl-acetic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester | 43.2 mg, 22% | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COC(CC=2C=NC=CC2)=O)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C25H19Cl2N7O6
